US05661167
I. Synthesis of 2-[[2-(2,2,3,3,3-pentafluoro-1-oxopropyl)-1-pyrrolidinyl]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester (Scheme I, compound VIIb)
Methylene chloride (10 ml) was added to CBZ-L-Pro-Cl which was then reacted under argon with a suspension of 2-(2,2,3,3,3-pentafluoro-1-oxopropyl)pyrrolidine hydrochloride (compound from Example IC; 2.49 mmol) and N-methylmorpholine (0.54 ml; 4.98 mmol) dissolved in methylene chloride (7 ml). After 2.5 hours the reaction was concentrated and brought up in methylene chloride (1 ml) and the product purified by flash chromatography on silica gel column eluting with ethyl acetate/hexane (50:50). Product fractions were collected and concentrated to give the desired product (0.52 g) as a colorless oil.

reactant | CBZ-L-Pro-Cl | N1([C@H](C(=O)Cl)CCC1)C(=O)OCC1=CC=CC=C1 | C13H14ClNO3
reactant | 2-(2,2,3,3,3-pentafluoro-1-oxopropyl)pyrrolidine hydrochloride | 2.49 mmol | Cl.FC(C(=O)C1NCCC1)(C(F)(F)F)F
reactant | N-methylmorpholine | 4.98 mmol, 0.54 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[[2-(2,2,3,3,3-pentafluoro-1-oxopropyl)-1-pyrrolidinyl]carbonyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester | 0.52 g | FC(C(=O)C1N(CCC1)C(=O)C1N(CCC1)C(=O)OCC1=CC=CC=C1)(C(F)(F)F)F | C20H21F5N2O4
